Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / iv contrast
 
Attending: ___
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with PMH of congenital bicuspid valve and aortic 
aneurysm s/p bovine aortic valve replacement and Ascending aorta 
replacement, Multiple sclerosis, Chronic back pain s/p multiple 
surgeries, presenting with 3 days of shortness of breath. A week 
ago, Mr. ___ started feeling chest pressure in his chest. 
He felt like fluid was filling up in his lungs. Thought it was 
secondary to an URI. Also had one day of nausea, chills and 
diarrhea, which have since resolved. Over the past few nights, 
his wife noticed that he was making wheezing and crackling 
noises from his lungs when he slept. Stable on 1 pillow. He went 
to a walk in clinic day before presentation, noted to have 
bilateral pleural effusions on CXR
.  
 In the ED, initial vital signs were: 97.8, 65, 120/44, 22, 98% 
RA  
 - Exam was notable for: clear lungs, positive JVD, no lower 
extremity swelling, loud systolic and diastolic murmur  
 - Labs were notable for: wbc 7.5, H/H 11.9/35.3, plt 208, 
proBNP 1697, trop <0.01, CHEM notable for Na 139, K 4.4, BUN 21, 
Cr 1.  
 - Imaging: CXR with trace bilateral pleural effusions  
 - Consults: seen by cardiology in the ED, with ___ diastolic 
murmur  
 - The patient was given: 1L NS prior to seeing cardiology, then 
given a 20mg IV lasix  

 - Vitals prior to transfere were: 98.6, 62, 115/44, 19, 94% RA 
 
 Upon arrival to the floor, patient is lying in bed, 
comfortable. Asking for home medications of Ativan and 
gabapentin. Says that he has been followed closely by his 
PCP/cardiologist for his aortic valve. He gets yearly ECHOs that 
have shown some aortic insufficiency with possible mitral 
regurgitation, but nothing that was significant. He also notes, 
that he is supposed to be flying out this morning for a 5 day 
vacation in ___ that he does not want to miss. Denies 
chest pain.  

 REVIEW OF SYSTEMS:  
 [+] per HPI  
 [-] Denies headache, visual changes, pharyngitis, rhinorrhea, 
nasal congestion, cough, fevers, chills, sweats, weight loss, 
dyspnea, chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, hematochezia, dysuria, rash, paresthesias, 
weakness  

 
Past Medical History:
 Bicuspid Aortic valve s/p Aortic Valve replacement in ___  
 Aortic Aneurysm, s/p Ascending aorta replacement  
 Multiple sclerosis  
 Chronic Back pain s/p multiple back surgeries  
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
 VITALS - 98.4, 106/38, 53, 18, 97RA  
 GENERAL - pleasant, well-appearing, in no apparent distress  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear  
 NECK - supple, JVP to mandible, left side higher than right  
 CARDIAC - regular rate & rhythm, IV/VI systolic murmur 
throughout the precordium, loudest at RUSB; V/VI 
decrescendo-crescendo diastolic murmur along left sternal border 
 
 PULMONARY - clear to auscultation bilaterally, without wheezes 
or rhonchi  
 ABDOMEN - normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly  
 EXTREMITIES - warm, well-perfused, no cyanosis, clubbing or 
edema  
 SKIN - without rash  
 NEUROLOGIC - A&Ox3, CN II-XII grossly normal, no focal 
neurologic deficits. Gait assessment deferred  
 PSYCHIATRIC - listen & responds to questions appropriately, 
pleasant  

=======================
DISCHARGE PHYSICAL EXAM
=======================
Weight: 77.3 kg
VS: T 98.4F BP 111/43 mmHg P 59 RR 18 O2 97% RA
General: Well appearing, pleasant man, in NAD.
HEENT: EOMs intact, anicteric sclerae.
Neck: JVP to midneck at 15 degrees. 
CV: RRR, harsh, systolic IV/VI murmur best heard over RUSB, V/VI 
decrescendo-crescendo diastolic murmur over left sternal border.
Pulm: CTA b/l; no wheezes, rhonchi, or rales.
Abd: Soft, non-tender, non-distended. NABS.
Ext: Warm, well-perfused, no edema.
Neuro: A&Ox3. CNs grossly II-XII. No focal neurologic signs.
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 05:30PM BLOOD WBC-7.5 RBC-3.95* Hgb-11.9*# Hct-35.3* 
MCV-89 MCH-30.1 MCHC-33.7 RDW-13.1 RDWSD-42.7 Plt ___
___ 05:30PM BLOOD ___ PTT-29.2 ___
___ 05:30PM BLOOD Neuts-52.4 ___ Monos-10.5 Eos-4.1 
Baso-1.2* NRBC-0.9* Im ___ AbsNeut-3.94 AbsLymp-2.37 
AbsMono-0.79 AbsEos-0.31 AbsBaso-0.09*
___ 05:30PM BLOOD Glucose-87 UreaN-21* Creat-1.0 Na-139 
K-4.4 Cl-103 HCO3-25 AnGap-15
___ 05:30PM BLOOD proBNP-1697*
___ 05:30PM BLOOD cTropnT-<0.01
___ 06:23PM BLOOD pO2-66* pCO2-39 pH-7.41 calTCO2-26 Base 
XS-0

==============
DISCHARGE LABS
==============
___ 04:35AM BLOOD WBC-6.7 RBC-3.69* Hgb-11.2* Hct-33.3* 
MCV-90 MCH-30.4 MCHC-33.6 RDW-13.2 RDWSD-43.1 Plt ___
___ 04:35AM BLOOD Glucose-85 UreaN-23* Creat-1.1 Na-139 
K-4.3 Cl-103 HCO3-27 AnGap-13
___ 04:35AM BLOOD ALT-24 AST-26 LD(LDH)-390* AlkPhos-51 
TotBili-0.5
___ 04:35AM BLOOD CK-MB-3 cTropnT-<0.01
___ 04:35AM BLOOD Albumin-3.8 Calcium-9.2 Phos-4.1 Mg-2.0

===============
IMAGING/STUDIES
===============
CHEST (PA & LAT) (___)
 
FINDINGS:  
The patient is status post median sternotomy and aortic valve 
replacement.  Heart size is top normal, decreased in size 
compared to the previous study.  The aorta is tortuous.  
Pulmonary vasculature is not engorged.  Lungs are hyperinflated. 
 Minimal patchy atelectasis is noted in the lung bases without 
focal consolidation.  Small bilateral pleural effusions are 
likely present. No acute osseous abnormalities detected. 
  
IMPRESSION:  
Minimal bibasilar atelectasis and probable trace bilateral 
pleural effusions. 

ECHO (___):
Findings   
 Multiplanar reconstructions were generated and confirmed on an 
independent workstation.   

LEFT ATRIUM: Mild ___. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. Normal IVC 
diameter (<=2.1cm) with >50% decrease with sniff (estimated RA 
pressure ___ mmHg). 

LEFT VENTRICLE: Normal LV wall thickness. Moderately dilated LV 
cavity. Normal regional LV systolic function. [Intrinsic LV 
systolic function likely depressed given the severity of 
valvular regurgitation.] Estimated cardiac index is high 
(>4.0L/min/m2). False LV tendon (normal variant). TDI E/e' >13, 
suggesting PCWP>18mmHg. No resting LVOT gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Mildly dilated aortic root. Normal ascending aorta 
diameter. 

AORTIC VALVE: Bioprosthetic aortic valve prosthesis (AVR). 
Thickened AVR leaflets. Increased AVR gradient. Mild AS (area 
1.2-1.9cm2). Moderate to severe (3+) AR. Eccentric AR jet. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. No MVP. 
Mild to moderate (___) MR. 

___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. Mild PA systolic hypertension. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: Echocardiographic results were reviewed by 
telephone with the houseofficer caring for the patient.   
Conclusions   
 The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thicknesses are 
normal. The left ventricular cavity is moderately dilated. 
Regional left ventricular wall motion is normal. Quantitative 
(3D) LVEF = 66 %. [Intrinsic function may be depressed given the 
severity of aortic regurgitation.]. The estimated cardiac index 
is high (>4.0L/min/m2). Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
valve bioprosthesis is well seated with moderately thickened 
leaflets. There is mild aortic valve stenosis (valve area 1.6 
cm2 - high velocity is related to aortic regurgitation). An 
eccentric jet of moderate to severe (3+) aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. Mild to moderate (___) mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

 IMPRESSON: Well seated aortic valve bioprosthesis with moderate 
to severe aortic regurgitation and mild stenosis. Mild left 
ventricular cavity dilation with preserved regional/global 
biventricular systolic function. Pulmonary artery systolic 
hypertension. Mild-moderate mitral regurgitation. Increased 
PCWP.  

 
Brief Hospital Course:
___ is a pleasant ___ y/o man with a PMH of multiple 
sclerosis, congenital bicuspid valve and aortic aneurysm s/p 
bovine AVR and ascending aorta replacement, who presented with 
three days of shortness of breath and was found to have ___ 
pleural effusions and grade IV diastolic murmur. Bovine AVR in 
___, with close follow-up by PCP/cardiologist and annual 
echocardiograms. Reported notation of minimal AV regurgitation 
and possible MR. ___ onset of dyspnea and chest tightness, with 
CXR showing bilateral pleural effusions. Harsh and loud systolic 
murmur, as well as ___ diastolic murmur, with was consistent 
with ___ aortic regurgitation causing acute congestive heart 
failure with JVD to mandible and elevated proBNP. Symptoms 
improved with 20 mg IV Lasix. Troponins negative, no chest pain, 
no oxygen requirement. TTE performed at ___ demonstrated LVEF 
55% with moderate to severe aortic valve regurgitation and LV 
dilation. Cardiac surgery consulted, patient left against 
medical advice prior to their evaluation. Discharged on 10 mg PO 
furosemide daily. He was continued on lorazepam and gabapentin. 
He did not receive natalizumab while in the hospital. 

===================
TRANSITIONAL ISSUES
===================
# Medication changes. Started on 10 mg PO Lasix daily.

# Aortic valve regurgitation. Will follow-up with cardiology and 
cardiac surgery as an outpatient for possible aortic valve 
replacement. 

# CONTACT: ___ (wife/HCP) c: ___ 
# CODE STATUS: Full code 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 2 mg PO QHS:PRN insomnia 
2. Gabapentin 300 mg PO BID 
3. ZyrTEC-D (cetirizine-pseudoephedrine) ___ mg oral QHS:PRN 
nasal congestion 
4. Aspirin 81 mg PO DAILY 
5. Vitamin D Dose is Unknown  PO DAILY 
6. Tysabri (natalizumab) 300 mg/15 mL injection q 6 weeks 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Gabapentin 300 mg PO BID 
3. Lorazepam 2 mg PO QHS:PRN insomnia 
4. Tysabri (natalizumab) 300 mg/15 mL injection q 6 weeks 
5. Vitamin D 1000 UNIT PO DAILY 
6. ZyrTEC-D (cetirizine-pseudoephedrine) ___ mg oral QHS:PRN 
nasal congestion 
7. Furosemide 10 mg PO DAILY 
RX *furosemide 20 mg 0.5 (One half) tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSES
=================
- ___ onset subacute diastolic heart failure
- Subacute aortic valve insufficiency

===================
SECONDARY DIAGNOSES
===================
- multiple sclerosis
- chronic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. You were admitted for shortness of breath and a 
___ murmur. We were concerned that you developed ___ heart 
failure from degeneration of your heart valve. You underwent an 
echocardiogram of your heart, which showed "regurgitation" 
(backward flow) through your aortic valve. 

We consulted cardiac surgery to evaluate your case and see if 
you need urgent surgery but you left before that could be 
arranged. 

Please follow up with cardiac surgery and your cardiologist as 
soon as possible for completion of your evaluation. You may need 
surgery for replacement of your valve. 

You have been started on a ___ medication, Lasix, to prevent 
fluid from building up in your lungs. Please continue to take 
all medications as prescribed. Your discharge follow-up 
appointments are outlined below.

We wish you the very best!

Warmly,
Your ___ Team
 
Followup Instructions:
___